* Z:\mnt\design.r\spice\examples\1508.asc
M§Q1 N004 N025 0 0 SUD40N10-25
R1 N012 N014 330K
C1 VAO N014 .0047µ
C2 VAO N012 .047µ
V1 N008 0 17
R2 N017 N018 10K
C3 N013 N018 10p
C4 N013 N017 100p
L1 N003 N004 750µ
R3 N003 N006 1Meg
C5 N006 0 470p
D1 N004 PFC D
C6 PFC 0 18µ
D2 N001 N003 1N4001
D3 N002 N005 1N4001
D4 N002 N001 1N4001
D5 N005 N003 1N4001
R4 N002 0 .2
V2 N001 N005 SINE(0 165 600)
R5 N010 0 20K
R6 PFC N010 1Meg
R7 N010 N014 20K
R8 N007 N002 4K
C7 N034 0 .001µ
C8 N026 0 1000p
R9 N024 0 15K
R10 N011 N009 10K
R11 N013 0 4K
R12 N009 N002 1.6K
C9 N009 0 1000p
C10 N035 0 .001µ
R13 N032 0 .5
M§Q2 N028 N036 N032 N032 SUD40N10-25
L2 N015 0 10m
L3 N016 N021 20m
M§Q3 PFC N016 N021 N021 SUD40N10-25
L4 N021 N028 5m
L5 N022 0 200µ
R14 N016 N021 20K
D6 N016 N019 DZ
D7 N021 N019 DZ
D8 N022 N023 PDS5100
D9 0 N023 PDS5100
L6 N023 OUT 67µ
C11 OUT 0 470µ Rser=.1
R15 N027 N036 10
C12 N015 N020 1µ
R16 N020 N027 10
D10 0 N021 D
D11 N028 PFC D
R17 OUT N038 24K
R18 N038 0 730
C13 N030 0 100p
C14 0 N029 1000p
R19 N030 N029 10K
Q4 N030 N033 N037 0 NPN
R20 N037 0 100
R21 N032 N031 1K
C15 N031 0 500p
R22 N038 N033 10K
XU1 N025 0 0 N026 N009 N018 N013 N007 N006 VAO N010 N011 N035 N014 N024 N034 N008 N030 N031 N027 LT1508
Rload OUT 0 10
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2.5m uic
.ic V(pfc)=385 V(vao)=3 V(out)=24 V(vc)=3
.model 1N4001 D
.model DZ D(Ron=1 Roff=1Meg Vrev=16)
K1 L2 L3 1
K2 L4 L5 1
.lib LT1508.sub
.backanno
.end
